* C:\Users\iiitk\OneDrive\rak\Lab8_12_11_25\full_adder.asc
M1 N004 N010 N011 N004 PMOS l=180nm w=810nm
M2 N004 N012 N011 N009 PMOS l=180nm w=810nm
M3 N011 Vin1 N014 N004 PMOS l=180nm w=810nm
M4 N011 Vin2 N014 N009 PMOS l=180nm w=810nm
M5 N005 Vin1 N010 N005 PMOS l=180nm w=810nm
M6 N018 Vin2 N012 N019 PMOS l=180nm w=810nm
M7 N014 N010 N023 0 NMOS l=180nm w=270nm
M8 N014 Vin1 N024 0 NMOS l=180nm w=270nm
M9 N024 Vin2 0 0 NMOS l=180nm w=270nm
M10 N023 N012 0 0 NMOS l=180nm w=270nm
M11 N012 Vin2 0 N025 NMOS l=180nm w=270nm
M12 N010 Vin1 0 N016 NMOS l=180nm w=270nm
Vdd N004 0 1.8
V2 N005 0 1.8
V4 Vin1 0 PULSE(1.8 0 0 .1n .1n 10n 20n)
V5 Vin2 0 PULSE(1.8 0 0 .1n 0.1n 20n 40n)
V1 N018 0 1.8
M13 N027 Vin1 N032 N027 PMOS l=180n w=810n
M14 N027 Vin2 N032 N027 PMOS l=180n w=810n
M15 N032 Vin1 N039 0 NMOS l=180n w=270n
M16 N039 Vin2 0 0 NMOS l=180n w=270n
V3 N027 0 1.8
M17 N029 N032 N035 N033 PMOS l=180n w=810n
M18 N035 N032 0 N037 NMOS l=180n w=270n
V6 N029 0 1.8
M19 N001 N006 N007 N001 PMOS l=180nm w=810nm
M20 N001 N008 N007 N003 PMOS l=180nm w=810nm
M21 N007 Vin3 Vout N001 PMOS l=180nm w=810nm
M22 N007 N014 Vout N003 PMOS l=180nm w=810nm
M23 N002 Vin3 N006 N002 PMOS l=180nm w=810nm
M24 N015 N014 N008 N017 PMOS l=180nm w=810nm
M25 Vout N006 N020 0 NMOS l=180nm w=270nm
M26 Vout Vin3 N021 0 NMOS l=180nm w=270nm
M27 N021 N014 0 0 NMOS l=180nm w=270nm
M28 N020 N008 0 0 NMOS l=180nm w=270nm
M29 N008 N014 0 N022 NMOS l=180nm w=270nm
M30 N006 Vin3 0 N013 NMOS l=180nm w=270nm
Vdd1 N001 0 1.8
V7 N002 0 1.8
V8 Vin3 0 PULSE(1.8 0 0 .1n .1n 10n 20n)
C3 Vout 0 50f
V10 N015 0 1.8
M31 N026 Vin3 N030 N026 PMOS l=180n w=810n
M32 N026 N014 N030 N026 PMOS l=180n w=810n
M33 N030 Vin3 N038 0 NMOS l=180n w=270n
M34 N038 N014 0 0 NMOS l=180n w=270n
V9 N026 0 1.8
M35 N028 N030 N034 N031 PMOS l=180n w=810n
M36 N034 N030 0 N036 NMOS l=180n w=270n
V11 N028 0 1.8
M37 N041 N035 P001 N041 PMOS l=180nm w=810nm
M38 P001 N034 N043 N041 PMOS l=180nm w=810nm
M39 N043 N035 0 0 NMOS l=180nm w=270nm
M40 N043 N034 0 0 NMOS l=180nm w=270nm
V13 N041 0 1.8
M41 N040 N043 Vc N042 PMOS l=180n w=810n
M42 Vc N043 0 N044 NMOS l=180n w=270n
V12 N040 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\iiitk\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 80n 0 0.001n
;tran 0 80n 0 0.001n
.backanno
.end
