* C:\Users\iiitk\OneDrive\Desktop\rak\90nm_PMOS.asc
M1 N001 N003 0 N002 PMOS l=90nm w=405nm
vsd N001 0 -1.2
vsg N003 0 -1..2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\iiitk\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.dc vsg 0 -1.2 .1
.backanno
.end
